US07189738B2
tert-Butyl 4-[2-(4-nitro-1-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate
2.7 g (9.81 mmol) of methyl 2-(bromomethyl)-3-nitrobenzoate (J. Org. Chem., 1999, 9731–9734) and 2.25 g (9.81 mmol) of tert-butyl 4-(2-aminoethyl)-1-piperidinecarboxylate (J. Med. Chem., 1997, 1779–1788) are dissolved in 45 ml of absolute DMF, 2.05 ml of triethylamine are added and the mixture is stirred at 70° C. for 2 h. After cooling, water is added to the reaction mixture. The organic phase is taken up in dichloromethane, dried over magnesium sulfate and concentrated. The crude product is purified by chromatography on silica gel.

reactant | methyl 2-(bromomethyl)-3-nitrobenzoate | 9.81 mmol, 2.7 g | BrCC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H8BrNO4
reactant | tert-butyl 4-(2-aminoethyl)-1-piperidinecarboxylate | 9.81 mmol, 2.25 g | NCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O2
reactant | triethylamine | 2.05 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-Butyl 4-[2-(4-nitro-1-oxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxylate | [N+](=O)([O-])C1=C2CN(C(C2=CC=C1)=O)CCC1CCN(CC1)C(=O)OC(C)(C)C | C20H27N3O5
